US05424435
The 2.01 g (0.0122 moles) of 2,6-dichloropyridine N-oxide and 2.10 g (85%) (0.0122 moles) of 1-octylmercaptan was reacted with 0.488 g (0.0122 moles) of ground sodium hydroxide in 8.2 ml of DMSO at 80° C. for 6 hours to give 2-chloro-6-octylthiopyridine N-oxide. It was reacted with 1.47 g (0.0367 moles) of ground sodium hydroxide at 80° C. for 3 hours to give 1-hydroxy-6-octylthiopyridine-2(1H)-one. After cooling, it was added 180 ml of water and was adjusted with 6N HCL to pH 3. The precipitate was filtered, washed with water and washed with 150 ml of petroleum ether to give 1.34 g (43%).

reactant | 2,6-dichloropyridine N-oxide | 0.0122 moles, 2.01 g | ClC1=[N+](C(=CC=C1)Cl)[O-] | C5H3Cl2NO
reactant | 1-octylmercaptan | 0.0122 moles, 2.10 g | C(CCCCCCC)S | C8H18S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 8.2 ml | CS(=O)C | C2H6OS
product | 2-chloro-6-octylthiopyridine N-oxide | ClC1=[N+](C(=CC=C1)SCCCCCCCC)[O-] | C13H20ClNOS
